US07705155B2
Synthesis of (R)-5-ethyl-5-hydroxy-2,5,6,9-tetrahydro-8-oxa-2-aza-benzocycloheptene
To a stirred solution of 1.097 g (R)-3-hydroxy-3-(3-hydroxymethyl-2-methoxy-pyridin-4-yl)-pentanoic acid (4.298 mmol) as obtainable from example 19, in 15.1 mL 1,2-dimethoxyethane, were added 1.014 mL aqueous HBr (48%) (9.03 mmol, 2.1 eq). After 15 min at room temperature, the solution was heated to 50° C. After 18 h at 50° C., the resulting suspension was allowed to stir at room temperature for additional 24 h and subsequently to stand at 5° C. for 18 h. The precipitate was collected by filtration using no vacuum and was subsequently washed twice with 2.55 mL, in total with 5.1 mL TBME, then with 2.55 mL acetone, two times with 3.18 mL, in total with 6.36 mL water and finally two times with 3.18 mL, in total with 6.36 mL acetone. After evaporation of residual solvent in a rotary evaporator (40° C./10 mbar), the title compound was obtained as white crystals (418.1 mg, 1.873 mmol, 44% w/w), in high purity (HPLC purity 100% area), and in an enantiomeric ratio of er=100.00:0.00 (see chiral HPLC method below).

reactant | (R)-3-hydroxy-3-(3-hydroxymethyl-2-methoxy-pyridin-4-yl)-pentanoic acid | 4.298 mmol, 1.097 g | O[C@@](CC(=O)O)(CC)C1=C(C(=NC=C1)OC)CO | C12H17NO5
reactant | HBr | 9.03 mmol, 1.014 mL, 2.1 eq | Br | BrH
solvent | 1,2-dimethoxyethane | 15.1 mL | COCCOC | C4H10O2
product | (R)-5-ethyl-5-hydroxy-2,5,6,9-tetrahydro-8-oxa-2-aza-benzocycloheptene | C(C)[C@]1(CCOCC2=C1C=CNC2)O | C11H17NO2
